US07851629B2
4-(2,3-dichlorophenyl)piperidine
A mixture of 4-(2,3-dichlorophenyl)-1,2,3,6-tetrahydropyridine (0.49 g, 2.15 mmol), platinum oxide (0.11 g) and hydrochloric acid (0.1 ml, conc) in methanol (30 ml) was hydrogenated at 50 psi for 1 h under hydrogen gas. The reaction mixture was filtered through a pad of celite and the filtrate was concentrated and evaporated to dryness. Aqueous sodium carbonate (10%, 50 ml) was added. The aqueous phase was extracted with ethylacetate (3×30 ml) and the combined organic phases was dried (MgSO4), filtered and evaporated to dryness. Yield: 0.17 g. MS m/z (rel. intensity, 70 eV) 230 (M+, 22), 229 (24), 228 (35), 196 (30), 194 (bp).

reactant | 4-(2,3-dichlorophenyl)-1,2,3,6-tetrahydropyridine | 2.15 mmol, 0.49 g | ClC1=C(C=CC=C1Cl)C=1CCNCC1 | C11H11Cl2N
reactant | hydrochloric acid | 0.1 ml | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
catalyst | platinum oxide | 0.11 g | [Pt]=O
product | 4-(2,3-dichlorophenyl)piperidine | ClC1=C(C=CC=C1Cl)C1CCNCC1 | C11H13Cl2N
